US07560558B2
(4,5-Dimethylfuran-2-yl)-(4-methylpyridin-3-yl)-methanol (174 mg) was dissolved in chloroform (5 ml) to prepare a solution. Manganese dioxide (1.05 g) was added to the solution, and the mixture was stirred at room temperature overnight. The reaction solution was then filtered through Celite. The solvent was removed from the filtrate by distillation under the reduced pressure. The residue was purified by column chromatography using hexane-ethyl acetate to give (4,5-dimethylfuran-2-yl)-(4-methylpyridin-3-yl)-methanone (151 mg, yield 88%).

reactant | (4,5-Dimethylfuran-2-yl)-(4-methylpyridin-3-yl)-methanol | 174 mg | CC=1C=C(OC1C)C(O)C=1C=NC=CC1C | C13H15NO2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 1.05 g | [O-2].[O-2].[Mn+4]
product | (4,5-dimethylfuran-2-yl)-(4-methylpyridin-3-yl)-methanone | 151 mg, yield 88% | CC=1C=C(OC1C)C(=O)C=1C=NC=CC1C | C13H13NO2
